Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7].[H:8]>>[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7][H:8],-3.40330008171
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5],1.73189465051
[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-0.8709512955
[C:1]#[C:2][C@:3]([H:4])([C:5]#[C:6][H:7])[O:8][H:9]>>[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6][H:7].[O:8][H:9],3.17224512384
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:13].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12],5.24366740682
[H:12].[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:13]([H:14])[H:15]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15],-4.60685893576
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-4.11183022173
[H:1][C:2]#[C:3][H:4].[O:5]=[C:6][O:7][H:8]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][O:7][H:8],1.02015111878
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:11][H:12].[H:10]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.97685632639
[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[O:11][H:12],-0.905478547156
[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-2.95647457039
[O:1]([C:2][C:5]([H:6])([H:7])[H:8])[C:3][H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[H:8],-2.9421886
[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])=[C:10]([H:11])[H:12].[H:9],1.70145604909
[H:1][C:2]#[C:3][C:4]([C:5]#[C:6][H:7])=[C:8]>>[H:1][C:2]#[C:3][C:4]1[C:5]2[C:6]([H:7])[C:8]12,-0.32047187067
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[H:10]>>[H:1][O:2]/[C:3]([H:4])=[C:6]/[O:7][C:8]([H:9])[H:10].[H:5],2.57435404985
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7],1.87233836665
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])([H:5])[H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],4.11420417371
[C:1]=[C:2]([O:3][C:4]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:5]>>[C:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.89343524261
[C:1]#[C:2][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:3]>>[C:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.8092544058599995
[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[O:13][H:14]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.41237546547
[H:4].[O:1]=[C:2]([H:3])/[C:5](=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][C:2]([H:3])([H:4])/[C:5](=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-0.7276602897560001
[C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([O:8][H:9])[O:10][H:11].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([O:8][H:9])[O:10][H:11],-4.6479452955800005
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[O:10].[H:11],3.70207164956
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],4.59912360794
[H:1][C:2]#[C:3][C:4][C:5]([H:6])[C:7][O:8][H:9]>>[C:3]#[C:4][C:5]([H:6])[C:7][O:8][H:9].[H:1][C:2],8.22925238462
[H:1][O:2][C@:3]1([H:4])[C:5][O:6][C:7]1[H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:7](/[O:6][C:5])[H:8],-0.65780633359
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1],3.82294639937
[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([H:7])=[C:8]=[O:9]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]=[O:9],-0.4991273006009999
[C:2](=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1][C:2](=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.81412970881
[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-0.7071119731290001
